Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Demerol / Ativan
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr ___ is a ___ DM1 c/b neuropathy and gastroparesis with 
multiple prior exacerbations, s/p pancreas transplant (___), 
who p/w N/V and dehydration x 2 days.  
.  
Pt reports N/V x 25, occasionally bilious, unable to tolerate 
any PO. He denies any other constitutional symptoms. Passing 
flatus, normal BM (non-bloody). Associated b/l lower abd pain 
(typically assoc  
w/ prior gastroparesis admission) is now resolved. Denies 
fevers, chills, diarrhea. Blood sugars have been under good 
control.  
.  
Transferred from surgical service for management. Has been given 
IVFs for rehydration, with resolution of ARF.  

 
Past Medical History:
PMH: 
Pancreatic transplant ___  
DM2 c/b gastroparesis, peripheral neuropathy  
Hep C  
Glaucoma  
?Seizures  
Right knee surgery  

PSH: Right knee surgery

 
Social History:
___
Family History:
NC
 
Physical Exam:
T97.1F, BP 147/91, HR 84, RR 20, Sat 97%RA 
GEN: lying in bed supine in NAD  
HEENT: NC/AT, PERRL, EOMI, MMM, OP clear  
NECK: supple, no LAD, normal JVP  
CV: RRR, normal S1S2, no M/R/G  
CHEST: CTAB, no W/R/R  
ABD: soft, TTP lower abdmen, no HSM, NABS  
EXTR: WWP, no C/C/E, 2+ DP/rad pulses b/l  
NEURO: AOx3, CNII-XII intact, ___ Motor strength in ___ b/l, 
2+ DTR in ___, normal stance and gait  
SKIN: Multiple tattoos

 
Pertinent Results:
LABS ON ADMISSION

___ 03:15PM   WBC-9.9 RBC-4.40* HGB-14.3 HCT-42.5 MCV-97 
MCH-32.4* MCHC-33.5 RDW-15.5
___ 03:15PM   NEUTS-94.3* LYMPHS-2.2* MONOS-2.8 EOS-0.4 
BASOS-0.3
___ 03:15PM   PLT COUNT-343
___ 03:15PM   ___ PTT-26.4 ___
___ 03:15PM   ALBUMIN-5.0*
___ 03:15PM   ALT(SGPT)-52* AST(SGOT)-56* ALK PHOS-77 TOT 
BILI-0.4
___ 03:15PM   LIPASE-19
___ 03:15PM   GLUCOSE-153* UREA N-25* CREAT-1.3* SODIUM-139 
POTASSIUM-4.0 CHLORIDE-104 TOTAL CO2-21* ANION GAP-18
___ 03:22PM   LACTATE-1.6
___ 05:41PM   tacroFK-25.5*
.
LABS ON DISCHARGE

___ 05:35AM BLOOD WBC-3.0* RBC-3.55* Hgb-11.0* Hct-34.6* 
MCV-97 MCH-31.0 MCHC-31.8 RDW-15.7* Plt ___
___ 05:35AM BLOOD Plt ___
___ 05:35AM BLOOD Glucose-92 UreaN-26* Creat-0.9 Na-139 
K-4.3 Cl-106 HCO3-24 AnGap-13
___ 05:35AM BLOOD ALT-133* AST-42* AlkPhos-78 TotBili-0.3
___ 05:35AM BLOOD Calcium-8.6 Phos-5.1* Mg-1.7
___ 05:35AM BLOOD tacroFK-11.8
.
MICRO
___ 7:10 pm IMMUNOLOGY

                            **FINAL REPORT ___

   HCV VIRAL LOAD (Final ___: 
      HCV-RNA NOT DETECTED. 
.
___ 12:35 pm IMMUNOLOGY

                            **FINAL REPORT ___

   HBV Viral Load (Final ___: 
      HBV DNA not detected. 
.
IMAGING
RUQ U/S ___
IMPRESSION: Echogenic liver consistent with fatty infiltration. 
Other forms 
of liver disease and more advanced liver disease including 
significant hepatic 
fibrosis/cirrhosis cannot be excluded on this study. Slightly 
prominent 
common duct. No intra- or extra-hepatic biliary ductal 
dilatation. 

 
Brief Hospital Course:
___ w DM1 with gastroparesis, neuropathy s/p pancreas transplant 
___, here w/ N/V/dehydration/abdominal pain, transferred 
from Transplant Surgery service for continued symptomatic 
management.  
.
# Abdominal pain: This is likely ___ gastroparesis, as pt has 
had similar previous admissions for abdominal pain/n/v that have 
resolved with IVF hydration and symptomatic control. Pain and 
nausea were well controlled on a regimen of Morphine ___ IV q4 
PRN, Zofran 4mg IV q8 PRN, Compazine PRN nausea. By day of 
discharge, pain was still present but low-grade and manageable. 
Pt was tolerating POs. He was sent home with a limited 
prescription for PO Dilaudid.
.  
# Elevated LFTs: During last few days of admission, LFTs had 
been uptrending. Liver was consulted, and it was thought that 
this could be secondary to inflammation in the setting of 
recently elevated Tacrolimus levels. Hep C viral load were 
re-checked given concern for reactivation in setting of 
immunosuppresion, and was undetectable. Hep B viral load was 
also negative. Pt was sent home on reduced dose of Tacrolimus. 
LFTs were down-trending on day of discharge.
.    
# s/p Pancreatic transplant: on ___. Post-op course has 
included several admissions for gastroparesis as above. Dosing 
of Tacrolimus was adjusted as above, and home MMF and 
Fludrocortisone were continued. Pt is also continued on Bactrim 
SS qday and Valcyte 900 PO qday for prophylaxis.
.  
# IDDM: now off insulin s/p pancreatic transplant. Continue 
Gabapentin for peripheral neuropathy, Reglan for gastroparesis.
.
# Anxiety: continue home Duloxetine, Topamax, Diazepam PRN 
.  
# Glaucoma: stable. Continue Xibrom.  
.  
# FEN: regular, IVF, replete lytes  
# Access: PIV  
# PPx: ambulatory, PPI, bowel reg PRN  
# Code: presumed FULL  
# Communication: patient, father
# ___: home given improvement of n/v/pain.  

 
Medications on Admission:
Tacrolimus 7mg bid  
Mycophenolate 500mg qid  
Valcyte 900mg daily  
Bactrim SS daily  
Nystatin 5ml QID  
Protonix 40mg daily  
Valium 10mg qid  
Dronabinol 10mg tid  
Cymbalta 90mg daily  
Neurontin 600mg tid  
Reglan 20mg qid  
Topamax 25mg daily  
Fludrocortisone 0.1mg daily  
EPO 1mL sc qwk  

 
Discharge Medications:
1. Mycophenolate Mofetil 500 mg Tablet Sig: One (1) Tablet PO 
QID (4 times a day).  
2. Valganciclovir 450 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
3. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
4. Nystatin 100,000 unit/mL Suspension Sig: Five (5) ml PO once 
a day.  
5. Protonix 40 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
6. Diazepam 10 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed.  
7. Dronabinol 2.5 mg Capsule Sig: Four (4) Capsule PO TID (3 
times a day).  
8. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Three 
(3) Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
9. Gabapentin 300 mg Capsule Sig: Two (2) Capsule PO Q8H (every 
8 hours).  
10. Reglan 10 mg Tablet Sig: Two (2) Tablet PO four times a day. 
 
11. Topiramate 25 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. Fentanyl 50 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).  
14. Prednisolone Acetate 1 % Drops, Suspension Sig: One (1) Drop 
Ophthalmic QID (4 times a day).  
15. XIBROM 0.09 % Drops Sig: One (1) drop ___ Ophthalmic four 
times a day.  
16. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
17. Dilaudid 2 mg Tablet Sig: One (1) Tablet PO every ___ hours 
for 2 days.
Disp:*12 Tablet(s)* Refills:*0*
18. Tacrolimus 1 mg Capsule Sig: Three (3) Capsule PO every 
twelve (12) hours.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Abdominal pain secondary to gastroparesis
.
Secondary: 
Diabetes mellitus type 2 
Peripheral neuropathy
s/p pancreatic transplant 
Glaucoma

 
Discharge Condition:
Good, hemodynamically stable, afebrile, pain controlled, 
nausea/vomiting resolved, tolerating POs
 
Discharge Instructions:
You were admitted for severe abdominal pain secondary to your 
gastroparesis.  You received symptomatic control with pain and 
nausea medicine, and your symptoms are now much improved. You 
will be discharged home with follow-up. 
.
The following changes were made to your medications:
Dilaudid 2mg PO q4-6hr PRN breakthrough pain
DECREASE Tacrolimus to 3mg PO twice daily
Please take your remaining medications as prescribed.
.
If you experience any worsening abdominal pain, fevers, nausea, 
vomiting, diarrhea, SOB, or have any other concerns, please call 
your MD or return to the ED.
 
Followup Instructions:
___